US06228880B1
2-Benzylamino-N-(1H-indol-4-yl)-acetamide
A solution containing 2-chloro-N-(1H-indol-4-yl)-acetamide (3.0 g, 14.4 mmol), benzylamine (4.76 g, 43.1 mmol) in DMSO (60 mL) was stirred at ambient temperature for 16 hours. The mixture was poured into water (700 mL) and the crude product crystallized as a solid. After filtration, the solids were dissolved in ethyl acetate (600 mL), washed with water (200 mL) and brine (200 mL), dried over anhydrous magnesium sulfate and filtered. Concentration of the ethyl acetate gave the title compound as a white solid, (3.36 g, 83.6%), mp 158-161° C.; MS EI m/e 279 (M+).

reactant | 2-chloro-N-(1H-indol-4-yl)-acetamide | 14.4 mmol, 3.0 g | ClCC(=O)NC1=C2C=CNC2=CC=C1 | C10H9ClN2O
reactant | benzylamine | 43.1 mmol, 4.76 g | C(C1=CC=CC=C1)N | C7H9N
reactant | water | 700 mL | O | H2O
solvent | DMSO | 60 mL | CS(=O)C | C2H6OS
product | 2-Benzylamino-N-(1H-indol-4-yl)-acetamide | 3.36 g, 83.6% | C(C1=CC=CC=C1)NCC(=O)NC1=C2C=CNC2=CC=C1 | C17H17N3O
